US08076358B2
Step D: 3-(5-Fluoro-2-nitro-phenyl)-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile
[1-Cyano-2-(tetrahydro-pyran-4-yl)-ethyl]-phosphonic acid diethyl ester (5.4 g, 19.6 mmol) was dissolved in THF (100 mL) and cooled to 0° C. Lithium (bistrimethylsilyl)amide (20 mL, 20 mmol, [1M]) was the added dropwise. The resulting mixture was stirred 20 min, and then 5-fluoro-2-nitro-benzaldehyde (3.31 g, 19.6 mmol) was added. The resulting mixture was stirred at room temperature overnight, then diluted with ethyl acetate and washed with saturated aqueous NaHCO3 solution. The organic phase was separated and dried with MgSO4 and filtered. The solvent was removed to yield an oil which was purified by silica column chromatography (120 g column, 20% EtOAc/heptane) to yield a solid.

reactant | [1-Cyano-2-(tetrahydro-pyran-4-yl)-ethyl]-phosphonic acid diethyl ester | 19.6 mmol, 5.4 g | C(C)OP(OCC)(=O)C(CC1CCOCC1)C#N | C12H22NO4P
reactant | 5-fluoro-2-nitro-benzaldehyde | 19.6 mmol, 3.31 g | FC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4FNO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(5-Fluoro-2-nitro-phenyl)-2-(tetrahydro-pyran-4-ylmethyl)-acrylonitrile | FC=1C=CC(=C(C1)C=C(C#N)CC1CCOCC1)[N+](=O)[O-] | C15H15FN2O3
